US04812573
2,2-Dimethyl-4-[7-(3-chlorophenylsulphamoyl)-1,2,3,4-tetrahydroisoquinolin-2-yl]butanoic acid
Following the method of Example 2(a), substituting methyl-2,2-dimethyl-4-bromobutanoate (J. L. Bass et al, Tetrahedron, 1966, 22, 285) gave a mixture of methyl-2,2-dimethyl-4-[7-(3-chlorophenylsulphamoyl)-1,2,3,4-tetrahydroisoquinolin-2-yl]butanoate and 1-oxo-2,2-dimethyl-1,4-bis-[7-(3-chlorophenylsulphamoyl)-1,2,3,4-tetrahydroisoquinolin-2-yl]butane, which were separated by chromatography (silica gel, ether). The former compound was hydrolysed by the method of Example 2(b), substituting methanol for ethanol and carrying out the reaction for 24 hours, to give, after recrystallisation from ethanol, 2,2-dimethyl-4-[7-(3-chlorophenylsulphamoyl)-1,2,3,4-tetrahydroisoquinolin-2-yl]butanoic acid, 1.1 C2H5OH, 0.8 H2O, m.p. ca. 120° C.

reactant | methyl-2,2-dimethyl-4-[7-(3-chlorophenylsulphamoyl)-1,2,3,4-tetrahydroisoquinolin-2-yl]butanoate | COC(C(CCN1CC2=CC(=CC=C2CC1)S(NC1=CC(=CC=C1)Cl)(=O)=O)(C)C)=O | C22H27ClN2O4S
reactant | 1-oxo-2,2-dimethyl-1,4-bis-[7-(3-chlorophenylsulphamoyl)-1,2,3,4-tetrahydroisoquinolin-2-yl]butane | O=C(C(CCN1CC2=CC(=CC=C2CC1)S(NC1=CC(=CC=C1)Cl)(=O)=O)(C)C)N1CC2=CC(=CC=C2CC1)S(NC1=CC(=CC=C1)Cl)(=O)=O | C36H38Cl2N4O5S2
product | 2,2-Dimethyl-4-[7-(3-chlorophenylsulphamoyl)-1,2,3,4-tetrahydroisoquinolin-2-yl]butanoic acid | CC(C(=O)O)(CCN1CC2=CC(=CC=C2CC1)S(NC1=CC(=CC=C1)Cl)(=O)=O)C | C21H25ClN2O4S
